US07544695B2
Preparation of tert-Butyl (3-Amino-1-phenyl-1H-pyrazol-4-yl)carbamate (I)
A solution of 4-nitro-1-phenyl-1H-pyrazol-3-amine (0.15 g, 0.74 mmol), di-tertbutyl dicarbonate (0.16 g, 0.74 mmol), triethylamine (0.19 g, 1.84 mmol) in methanol 20 mL was degassed with nitrogen and treated with platinum oxide (17 mg, 10 mol %). The solution was placed under a hydrogen atmosphere and stirred at ambient temperature for 2 hours. The reaction was then degassed with nitrogen, filtered through celite, washed with methanol and evaporated in vacuo. Flash chromatography (20-35% ethyl acetate/hexanes) gave the title compound as a purplish solid. 1H NMR (CDCl3) δ 7.85 (s, 1H), 7.51 (m, 2H), 7.37 (m, 2H), 7.18 (m, 1H), 6.40 (bs, 1H).

reactant | 4-nitro-1-phenyl-1H-pyrazol-3-amine | 0.74 mmol, 0.15 g | [N+](=O)([O-])C=1C(=NN(C1)C1=CC=CC=C1)N | C9H8N4O2
reactant | di-tertbutyl dicarbonate | 0.74 mmol, 0.16 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 1.84 mmol, 0.19 g | C(C)N(CC)CC | C6H15N
solvent | methanol | 20 mL | CO | CH4O
catalyst | platinum oxide | 17 mg | [Pt]=O
product | tert-Butyl (3-Amino-1-phenyl-1H-pyrazol-4-yl)carbamate | NC1=NN(C=C1NC(OC(C)(C)C)=O)C1=CC=CC=C1 | C14H18N4O2
